US08912188B2
To a solution of (S)-methyl 3-(4-ethyl-2-methylpiperazin-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylate (80 mg, crude) in methanol (30 mL) was added sodium hydroxide (31.0 mg, 0.78 mmol) and water (1 mL), and the reaction was stirred overnight at room temperature. The reaction mixture was concentrated in vacuo, dissolved in water (30 mL), and adjusted to pH 5 with HCl (3N) to give the precipitate, which was purified by Prep-HPLC with the following conditions [(Agilent 1200 prep HPLC): Column, SunFire Prep C18, 19*50 mm 5 um; mobile phase, water with 0.05% NH3.H2O and CH3CN (10% CH3CN up to 45% in 10 min); Detector, UV 220 nm] to afford (S)-3-(4-ethyl-2-methylpiperazin-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylic acid (40 mg, 52.0%).

reactant | (S)-methyl 3-(4-ethyl-2-methylpiperazin-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 80 mg | C(C)N1C[C@@H](N(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F)C | C23H25FN4O2
reactant | sodium hydroxide | 0.78 mmol, 31.0 mg | [OH-].[Na+]
reactant | water | 1 mL | O | H2O
solvent | methanol | 30 mL | CO | CH4O
product | (S)-3-(4-ethyl-2-methylpiperazin-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylic acid | 40 mg, 52.0% | C(C)N1C[C@@H](N(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=C(C=C1)F)C | C22H23FN4O2
